US04668697
Step A: Preparation of 5-Methoxymethylbenzo [b]thiophene
To a stirred mixture of powdered KOH (18.9 g, 0.336 mol) in dimethylsulfoxide (100 ml) was added 5-hydroxymethylbenzo[b]thiophene (13.8 g, 0.084 mol) in 25 ml of dimethylsulfoxide. Then methyl iodide (23.9 g, 0.168 mol) was added dropwise at ambient temperature over several minutes. Stirring was continued for 11/2 hours. The mixture was filtered, diluted with water (150 ml) and extracted with methylene chloride (200 ml) in three portions. The combined extracts were washed with water, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. This gave 14.1 g of amber liquid. Distillation gave 10.47 g of colorless liquid, b.p. 2.2 mm Hg 110°-111° C. (Yield 70%).

reactant | KOH | 0.336 mol, 18.9 g | [OH-].[K+]
reactant | 5-hydroxymethylbenzo[b]thiophene | 0.084 mol, 13.8 g | OCC1=CC2=C(SC=C2)C=C1 | C9H8OS
reactant | methyl iodide | 0.168 mol, 23.9 g | CI | CH3I
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
product | 5-Methoxymethylbenzo [b]thiophene | 10.47 g, Yield 70% | COCC1=CC2=C(SC=C2)C=C1 | C10H10OS
